US09193728B2
A suspension of 3,4-dihydro-3-phenylquinoxalin-2(1H)-one (430 mg, 1.9 mmol) in 3N HCl (30 mL) was stirred at 5° C. Sodium nitrite (150 mg, 2.17 mmol) in water (1 mL) was added dropwise and stirring was continued for 1 h. The reaction mixture was extracted with DCM. The organic layer was dried over sodium sulfate and concentrated under vacuum to obtain 475 mg of 3,4-dihydro-4-nitroso-3-phenylquinoxalin-2(1H)-one.

reactant | 3,4-dihydro-3-phenylquinoxalin-2(1H)-one | 1.9 mmol, 430 mg | C1(=CC=CC=C1)C1C(NC2=CC=CC=C2N1)=O | C14H12N2O
reactant | Sodium nitrite | 2.17 mmol, 150 mg | N(=O)[O-].[Na+]
solvent | HCl | 3N, 30 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 3,4-dihydro-4-nitroso-3-phenylquinoxalin-2(1H)-one | 475 mg | N(=O)N1C(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H11N3O2
